US04322442
40 ml of concentrated sodium hydroxide solution and 25.4 g (0.1 mol) of iodine were simultaneously introduced into a solution of 31.9 g (0.1 mol) of 3-(4-biphenylyl)-3-(3-chlorophenyl)-1-propyn-3-ol in 350 ml of methanol at 20° C., with slight external cooling and while stirring. The mixture was stirred for three hours and filtered to remove a slight turbidity and the filtrate was stirred into 1,000 ml of water. The reaction product thereby separated out as a semi-solid mass. The supernatant liquid was decanted, the residue was taken up in ethyl acetate and the solution was washed several times with 100 ml of water each time and dried over sodium sulphate. Thereafter, it was concentrated by distilling off the solvent in vacuo, and the oily residue was dissolved in a little ether. After adding petroleum ether, crystallization occurred. 25.3 g (56.9% of theory) of 3-(4-biphenylyl)-3-(3-chlorophenyl)-1-iodo-1-propyn-3-ol were obtained as colorless crystals of melting point 99°-100° C.

reactant | sodium hydroxide | 40 ml | [OH-].[Na+]
reactant | iodine | 0.1 mol, 25.4 g | II | I2
reactant | 3-(4-biphenylyl)-3-(3-chlorophenyl)-1-propyn-3-ol | 0.1 mol, 31.9 g | C1(=CC=C(C=C1)C(C#C)(O)C1=CC(=CC=C1)Cl)C1=CC=CC=C1 | C21H15ClO
solvent | methanol | 350 ml | CO | CH4O
product | 3-(4-biphenylyl)-3-(3-chlorophenyl)-1-iodo-1-propyn-3-ol | 25.3 g, 56.9% | C1(=CC=C(C=C1)C(C#CI)(O)C1=CC(=CC=C1)Cl)C1=CC=CC=C1 | C21H14ClIO
